US06444685B1
N-(3,4-Dimethoxy-phenyl)-4-{4-[(2S)-2-hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide
The title compound was prepared from 4-((2S)-3-Amino-2-hydroxy-propoxy)-1,3-dihydrobenzoimidazol-2-one and Reference Example 73, N-(3,4-dimethoxy-phenyl)-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide, according to the procedure of Example 1 as a grey solid. 1H NMR (DMSO) δ 1.28 (m, 2H), 1.84 (m, 2H), 2.65(m, 1H), 2.81 (m, 4H), 3.62(s, 3h), 3.64(s, 3H). 3.77(m, 2H), 3.89(m, 2H), 4.03(m, 1H), 4.87(bs, 1H), 6.59 (m, 4H), 6.74(d, 1H, J=8.7 Hz), 6.83(d, 1H, J=8.1 Hz), 6.91 (d, 2H, J=9.0 Hz), 7.45(d, 2H, J=9.0 Hz), 10.57 (bs, 1H), 10.69 (bs, 1H); MS (ES) m/z: 598.1 (MH+); HRMS for C29H35N5O7S: 598.2296 (MH+).

reactant | 4-((2S)-3-Amino-2-hydroxy-propoxy)-1,3-dihydrobenzoimidazol-2-one | NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C10H13N3O3
reactant | N-(3,4-dimethoxy-phenyl)-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | COC=1C=C(C=CC1OC)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C19H22N2O5S
product | N-(3,4-Dimethoxy-phenyl)-4-{4-[(2S)-2-hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide | COC=1C=C(C=CC1OC)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C29H35N5O7S
